US09334286B2
Preparation 72: 2-Chloro-4-(5-methyl-1,3,4-oxadiazol-2-yl)aniline
To a mixture of 4-(5-methyl-1,3,4-oxadiazol-2-yl)aniline (0.220 g, 1.26 mmol) and anhydrous DMF (1.9 mL) was added N-chlorosuccinimide (0.168 g, 1.26 mmol). The reaction mixture was heated at 40° C. for 1.5 hours under argon before being allowed to cool to room temperature and partitioned between EtOAc (90 mL) and saturated aqueous NaHCO3 (15 mL). The organic layer was washed with saturated aqueous NaHCO3 (15 mL), dried (Na2SO4) and concentrated in vacuo. The brown residue was absorbed on silica gel (1.4 g), and purified using silica gel column chromatography eluting with a gradient of 0-30% EtOAc in CH2Cl2 to afford the title compound as a white solid (0.130 g, 49%).

reactant | 4-(5-methyl-1,3,4-oxadiazol-2-yl)aniline | 1.26 mmol, 0.220 g | CC1=NN=C(O1)C1=CC=C(N)C=C1 | C9H9N3O
reactant | N-chlorosuccinimide | 1.26 mmol, 0.168 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 1.9 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-4-(5-methyl-1,3,4-oxadiazol-2-yl)aniline | 0.130 g, 49% | ClC1=C(N)C=CC(=C1)C=1OC(=NN1)C | C9H8ClN3O
